US08497368B2
To a solution of isoindoline-1,3-dione (6.47 g, 44.0 mmol) and triphenylphosphine (11.53 g, 44.0 mmol) in THF (70 mL) at a 0° C., was added a solution of quinolin-6-ylmethanol (7 g, 44.0 mmol) in THF (30 mL) and (E)-diisopropyl diazene-1,2-dicarboxylate (8.89 g, 44.0 mmol) dropwise over a period of 30 min. The mixture was then heated to 30° C. for 20 h. The reaction was cooled to rt and concentrated in vacuo. The resulting residue was purified by Analogix silica gel with gradient hexanes:EtOAc to provide 2-(quinolin-6-ylmethyl)isoindoline-1,3-dione (12.04 g) in 95% yield. LCMS (method A): [MH]+=2.99, tR=4.89 min.

reactant | isoindoline-1,3-dione | 44.0 mmol, 6.47 g | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | triphenylphosphine | 44.0 mmol, 11.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | quinolin-6-ylmethanol | 44.0 mmol, 7 g | N1=CC=CC2=CC(=CC=C12)CO | C10H9NO
reactant | (E)-diisopropyl diazene-1,2-dicarboxylate | 44.0 mmol, 8.89 g | N(=N\C(=O)OC(C)C)/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(quinolin-6-ylmethyl)isoindoline-1,3-dione | 12.04 g, 95% yield | N1=CC=CC2=CC(=CC=C12)CN1C(C2=CC=CC=C2C1=O)=O | C18H12N2O2
